Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.94204755169
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([O:7][H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.82063599918
[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2],5.3922832212900005
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11]>>[C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11].[H:1],3.99922209508
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9],5.34831343975
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:9][H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8],10.5905473836
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.98445022106
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.56083209654
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1][C:2][O:3].[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],2.66921415986
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3],7.60742167697
[C:3]([H:4])#[C:5][H:6].[H:1][C:2]([H:7])=[C:8]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],1.4551121477200002
[H:1][C:2][O:3]/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-2.96247215177
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4][H:5])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13].[H:6],5.13376931802
[O:1]=[C:2]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.30313605497
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-6.30616873618
[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7][H:8].[H:9],5.07134370817
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[O:11][H:12],4.248591075249999
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7].[O:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-1.2957689547799998
[C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.701757075880002
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7].[O:8]=[C:9][H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],-0.08152211299920001
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]#[C:3][H:4],1.4763710145700002
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],5.23549065767
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13].[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.66293003867
[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](=[C:4](\[H:5])[O:6][C:7]([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.98594253821
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],7.35498198894
[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7].[O:8][H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9],-3.10352276685
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2],5.8237297838
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2],6.36521317628
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-3.2404053904500003
